* Z:\home\muffin\Documents\fall-2011\6.331\lab2\buck-boost-scm.asc
XU1 0 N006 vcc vee N007 LT1632
XU2 0 N004 vcc vee N008 LT1632
V1 vcc 0 15
V2 vee 0 -15
R1 N008 N004 5k
R5 N006 N008 10k
C1 N007 N006 10n
L1 N002 0 100µ
R6 N001 0 20
C2 N001 0 14µ
V3 N003 0 10
M1 N002 N005 N003 N003 FQB11P06
D1 N001 N002 D
Q1 N003 N010 N005 0 2N3904
Q2 0 N010 N005 0 2N3906
XU3 N014 N007 vdd 0 N011 LT1720
XU4 N007 vh vdd 0 N009 LT1720
Q3 N010 N013 0 0 NPN
R7 N003 N010 2k
R8 N013 N012 64k
V4 vdd 0 5
A1 N009 N011 0 0 0 N012 0 0 SRFLOP Vhigh=5V
V6 vh 0 1.1
R9 N014 0 8.1k
R10 N014 vh 1.9k
R13 vdd N009 3k
R14 vdd N011 3k
R3 N004 N002 5k
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 2m 2u startup
.lib LTC.lib
.backanno
.end
